US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(1-[t-butoxycarbonyl]-5-indolyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one-8-boronic acid (178 mg, 0.65 mmol), tetrakis (triphenylphosphine) palladium (0) (23 mg, 0.02 mmol), 1-(t-butoxycarbonyl)-5-bromoindole (193 mg, 0.65 mmol), 0.65 mL of 2M sodium carbonate and 2 mL of THF, fitted with a reflux condenser, and the stirred mixture was heated at 80°, under nitrogen, for 24 h. The mixture was cooled, diluted with chloroform (75 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (5% methanol/ethyl acetate eluent) to give 113 mg (39%) of the title compound as an amorphous foam. FDMS: m/e=445. α[D]589 =+68.17 (c=0.47, chloroform).

reactant | 1-(t-butoxycarbonyl)-5-bromoindole | 0.65 mmol, 193 mg | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)Br | C13H14BrNO2
reactant | sodium carbonate | 2M, 0.65 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | THF | 2 mL | C1CCOC1 | C4H8O
solvent | chloroform | 75 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.02 mmol, 23 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | (+)-(4aR)-(10bR)-4-methyl-8-(1-[t-butoxycarbonyl]-5-indolyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 113 mg, 39% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C=3C=C1C=CN(C1=CC3)C(=O)OC(C)(C)C)C)=O | C28H32N2O3
